US08278338B2
0.84 g of 2-dimethylaminomethyl-5-methoxy-1-pyridin-3-yl-indan-1-ol hydrochloride (mixture of the diastereoisomers) was dissolved in about 13 ml of 33% hydrobromic acid in acetic acid and stirred for 3 hours under reflux at 100-110° C. The reaction mixture was concentrated in vacuo, rendered alkaline with 32% sodium hydroxide solution and extracted with ethyl acetate; the combined organic phases were dried over magnesium sulfate, stirred with activated carbon, filtered and concentrated. 0.62 g of 2-dimethylaminomethyl-1-pyridin-3-yl-3H-inden-5-ol was obtained and was dissolved in about 22 ml of 2-butanone/acetone (v/v=1:2) and converted into the corresponding hydrochloride with about 0.04 ml of water and about 0.58 ml of chlorotrimethylsilane, while cooling with ice; the hydrochloride was filtered off with suction, with the exclusion of air, washed with diisopropyl ether and dried in vacuo (about 50 mbar) (yield 0.631 g).

reactant | 2-dimethylaminomethyl-5-methoxy-1-pyridin-3-yl-indan-1-ol hydrochloride | 0.84 g | Cl.CN(C)CC1C(C2=CC=C(C=C2C1)OC)(O)C=1C=NC=CC1
solvent | hydrobromic acid | about 13 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-dimethylaminomethyl-1-pyridin-3-yl-3H-inden-5-ol | 0.62 g | CN(C)CC1=C(C2=CC=C(C=C2C1)O)C=1C=NC=CC1 | C17H18N2O
